US07816557B2
Racemic 3-(4-{1-[4-(4-methyl-pentyloxy)-phenoxy]-heptyl}-benzoylamino)-propionic acid
The title compound is prepared in a manner substantially similar to Example 92 starting from 3-{4-[1-(4-hydroxy-phenoxy)-heptyl]-benzoylamino}-propionic acid methyl ester and 1-bromo-4-methyl-pentane. MS: 484.2 [M−H]−.

reactant | 3-{4-[1-(4-hydroxy-phenoxy)-heptyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCCCCC)OC1=CC=C(C=C1)O)=O)=O | C24H31NO5
reactant | 1-bromo-4-methyl-pentane | BrCCCC(C)C | C6H13Br
product | Racemic 3-(4-{1-[4-(4-methyl-pentyloxy)-phenoxy]-heptyl}-benzoylamino)-propionic acid | CC(CCCOC1=CC=C(OC(CCCCCC)C2=CC=C(C(=O)NCCC(=O)O)C=C2)C=C1)C | C29H41NO5
